US06939928B1
(2) Synthesis of 1-phenyl-1-(3-tert-butylcyclopentadienyl)-1-(3,6-di-tert-butylfluorenyl)ethane
To a solution of 1.92 g (6.9 mmol) of 3,6-di-tert-butylfluorene in 30 ml of THF, 4.4 ml (7.2 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. To the resulting red solution, a solution of 1.70 g (7.6 mmol) of 3-tert-butyl-6,6-methylphenylfulvene in 40 ml of THF was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. After the reaction solution was diluted with 100 ml of ether, 50 ml of water was added. The separated organic phase was washed with water and a saturated saline solution, then dried over magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a solid. The solid was reslurried with 50 ml of methanol, and the resulting slurry was filtered to obtain 1.0 g (1.99 mmol) of a white solid (yield: 29%). The analyzed values are given below.

reactant | 3,6-di-tert-butylfluorene | 6.9 mmol, 1.92 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | hexane | 7.2 mmol, 4.4 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | methanol | 50 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 1-phenyl-1-(3-tert-butylcyclopentadienyl)-1-(3,6-di-tert-butylfluorenyl)ethane | 1.99 mmol, 1.0 g, yield: 29% | C1(=CC=CC=C1)C(C)(C1=CC(=CC=2C3=CC(=CC=C3CC12)C(C)(C)C)C(C)(C)C)C1C=C(C=C1)C(C)(C)C | C38H46
